data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_601484_0,[C:1]1([C:3]([H:14])([H:15])[H:16])([O:7][C:2]([H:11])([H:12])[H:13])[C:6]([H:10])=[C:5]([C:4]([H:17])([H:18])[H:19])[N:9]=[N:8]1>>[C:1]1([C:3]([H:14])([H:15])[H:16])=[C:6]([H:10])[C:5]([C:4]([H:17])([H:18])[H:19])([O:7][C:2]([H:11])([H:12])[H:13])[N:9]=[N:8]1,63.35616499998196
MR_304610_2,[C:1]([C:2]([H:11])([H:12])[H:13])([C:5]([C:3]([H:14])([H:15])[H:18])=[O:8])([C:6]([C:4]([H:16])([H:17])[H:19])=[O:9])[O:7][H:10]>>[C:1](\[C:2]([H:11])([H:12])[H:13])(=[C:5](\[C:3]([H:14])([H:15])[H:18])[O:8][C:6]([C:4]([H:16])([H:17])[H:19])=[O:9])[O:7][H:10],54.52598500001841
MR_19960_1,[C:1]([C:4]([C:5]([C:2]([H:18])([H:19])[H:20])/[C:9](=[C:6](/[C:3]([H:21])([H:22])[H:23])[N:8]([H:12])[H:13])[H:14])[N:7]([H:10])[H:11])([H:15])([H:16])[H:17]>>[C:1]([C@:4]1([N:7]([H:10])[H:11])[C:5]([C:2]([H:18])([H:19])[H:20])=[C:9]([H:14])[C@:6]1([C:3]([H:21])([H:22])[H:23])[N:8]([H:12])[H:13])([H:15])([H:16])[H:17],59.48511750001771
MR_462059_1,[N:1]1([H:10])[C:2]2([O:6][H:9])[C:3]1([C:4](=[O:8])[H:11])[N:7]=[C:5]2[H:12]>>[n:1]1([H:10])[c:2]([O:6][H:9])[c:5]([H:12])[n:7][c:3]1[C:4](=[O:8])[H:11],6.4381499999747405
MR_612316_0,[C:1]([N:2]([C:3](=[O:7])[H:9])/[N:6]=[C:4](/[O:5][H:8])[H:10])([H:11])([H:12])[H:13]>>[C:1](/[N:2]=[N:6]/[C:4]([C:3](=[O:7])[H:9])([O:5][H:8])[H:10])([H:11])([H:12])[H:13],57.21419499997282
MR_490184_1,[C@@:1]([C:3]([H:17])([H:18])[H:19])(/[C:5](=[C:6](\[N:4]([H:10])[H:11])[H:13])[H:12])([O:7][C:2]([H:14])([H:15])[H:16])[O:8][H:9]>>[C:1](\[C:3]([H:17])([H:18])[H:19])(=[C:5](\[C@@:6]([N:4]([H:10])[H:11])([O:7][C:2]([H:14])([H:15])[H:16])[H:13])[H:12])[O:8][H:9],52.79973250002513
MR_544053_1,[C:1]([C:2]([N:6]([C:4]([H:19])([H:20])[H:21])[C:8]([O:9][C:3]([H:16])([H:17])[H:18])([O:10][H:22])[H:15])([H:13])[H:14])(=[C:5]([H:23])[H:24])[N:7]([H:11])[H:12]>>[C:1]([C:2]([N:6]([C:4]([H:19])([H:20])[H:21])[C:8](=[O:10])[H:15])([H:13])[H:14])([C:5]([H:22])([H:23])[H:24])([N:7]([H:11])[H:12])[O:9][C:3]([H:16])([H:17])[H:18],35.77063750000235
MR_527313_1,[C:1]([N:2]([H:6])[H:7])([O:4]/[C:3](=[N:5]/[H:8])[H:11])([H:9])[H:10]>>[C:1]([N:2]([H:6])[H:7])([N:5]([C:3](=[O:4])[H:11])[H:8])([H:9])[H:10],26.125334999992305
MR_86213_0,[C:1](/[C:4](=[N:6]/[C:2]([N:3]([H:7])[H:8])=[C:5]([H:10])[H:11])[H:9])([H:12])([H:13])[H:14]>>[C:1]([C:4]1([H:9])[C:5]([H:10])([H:11])[C:2]([N:3]([H:7])[H:8])=[N:6]1)([H:12])([H:13])[H:14],33.16086500002825
MR_475955_2,[C:1]([N:5]([C:2]([H:15])([H:16])[H:17])[N:8]([H:11])[H:12])(/[C:7]([C:4]([H:21])([H:22])[H:23])=[C:6](\[C:3]([H:18])([H:19])[H:20])[O:9][H:10])([H:13])[H:14]>>[C:1]1([H:13])([H:14])[N:5]([C:2]([H:15])([H:16])[H:17])[C@@:7]1([C:4]([H:21])([H:22])[H:23])[C@:6]([C:3]([H:18])([H:19])[H:20])([N:8]([H:11])[H:12])[O:9][H:10],68.39875499998456
MR_102131_0,[C:1]1([H:9])([H:10])[C:3]([C:2](=[O:7])[H:8])([H:11])[C:4]1([C:5](=[C:6]([H:14])[H:15])[H:13])[H:12]>>[C:1](/[C:4](=[C:3](/[C:2](=[O:7])[H:8])[H:11])[H:12])([C:5](=[C:6]([H:14])[H:15])[H:13])([H:9])[H:10],71.17920749999143
MR_265819_1,[C:1]([C:3]([C:2]([H:11])([H:12])[H:13])=[N:5][C:4](=[O:6])[H:7])([H:8])([H:9])[H:10]>>[C:1]([C:3](=[C:2]([H:12])[H:13])[N:5]([C:4](=[O:6])[H:7])[H:11])([H:8])([H:9])[H:10],64.8138474999756
MR_30999_1,[C:1]([C:2]([C:4](=[O:5])[H:8])([H:11])[H:12])([N:3]([H:6])[H:7])([H:9])[H:10]>>[C:1](\[C:2]([C:4]([O:5][H:6])([H:8])[H:10])([H:11])[H:12])(=[N:3]/[H:7])[H:9],54.8704825000047
MR_23581_1,[C:1]([N:4]([C:2]([H:12])([H:13])[H:14])[C:6](=[O:8])[H:9])([C:5]([C:3]([H:15])([H:16])[H:17])=[C:7]([H:18])[H:19])([H:10])[H:11]>>[C:1]1([H:10])([H:11])[N:4]([C:2]([H:12])([H:13])[H:14])[C:5]1([C:3]([H:15])([H:16])[H:17])[C:7]([C:6](=[O:8])[H:9])([H:18])[H:19],70.35341750000754
MR_287701_0,[C@:1]1(/[C:6]([C:4]([H:15])([H:16])[H:17])=[C:7](\[C:5]([H:18])([H:19])[H:20])[H:11])([H:9])[C@:2]([C:3]([H:12])([H:13])[H:14])([H:10])[O:8]1>>[C:1]1(/[C:6]([C:4]([H:15])([H:16])[H:17])=[C:7](\[C:5]([H:18])([H:19])[H:20])[H:11])([H:9])[C:2]([C:3]([H:12])([H:13])[H:14])([H:10])[O:8]1,57.84608749998256
MR_587393_0,[C:1]([C:4]([C:2](=[O:5])[O:6][H:8])(/[C:3](=[N:7]\[H:9])[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1](/[C:4](=[C:2](/[O:5]/[C:3](=[N:7]\[H:9])[H:10])[O:6][H:8])[H:11])([H:12])([H:13])[H:14],71.14595000003973
MR_27307_1,[C:1]([C:3]([H:14])([H:15])[H:16])([C:5]([C:2]([H:11])([H:12])[H:13])=[O:8])(/[C:6]([C:4]([H:17])([H:18])[H:19])=[N:7]\[H:10])[H:9]>>[C:1](\[C:3]([H:14])([H:15])[H:16])(=[C:5](/[C:2]([H:11])([H:12])[H:13])[O:8]/[C:6]([C:4]([H:17])([H:18])[H:19])=[N:7]\[H:10])[H:9],71.27082249997414
MR_74410_1,[C:1]([N:4]([N:5]([C:2]([H:15])([H:16])[H:17])[H:9])/[N:8]=[C:6](\[C:3]([H:18])([H:19])[H:20])[N:7]([H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1](/[N:4]=[N:8]/[C:6]([C:3]([H:18])([H:19])[H:20])([N:5]([C:2]([H:15])([H:16])[H:17])[H:9])[N:7]([H:10])[H:11])([H:12])([H:13])[H:14],53.05889000001287
